US07211685B2
2-tert-Butyldimethylsilyloxymethyl-N-methoxy-N-methylbenzamide
To a solution of phthalide (26.8 g) in methylene chloride (600 ml) were successively added N,O-dimethylhydroxylamine hydrochloride (58.5 g) and aluminum chloride (40.0 g) under ice-cooling, and triethylamine (139 ml) was added dropwise over 40 min. The mixture was stirred at room temperature for 12 hr. The reaction mixture was poured into diluted hydrochloric acid, and the organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 2-hydroxymethyl-N-methoxy-N-methylbenzamide. The obtained 2-hydroxymethyl-N-methoxy-N-methylbenzamide was dissolved in N,N-dimethylformamide (300 ml), and imidazole (9.53 g) and tert-butyldimethylchlorosilane (21.1 g) were added. The mixture was stirred at room temperature for 3.5 hr and the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentration under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3) to give the title compound (42.0 g).

reactant | 2-hydroxymethyl-N-methoxy-N-methylbenzamide | OCC1=C(C(=O)N(C)OC)C=CC=C1 | C10H13NO3
reactant | imidazole | 9.53 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 21.1 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butyldimethylsilyloxymethyl-N-methoxy-N-methylbenzamide | 42.0 g | [Si](C)(C)(C(C)(C)C)OCC1=C(C(=O)N(C)OC)C=CC=C1 | C16H27NO3Si
